* Z:\home\storm\workspaces\Bachelorarbeit\Simulation\Filter real.asc
V1 N002 0 PULSE(0 0.1 0 0 0 0.000128 0.000256) AC 1
R1 N003 N002 2.7k
R3 N004 N003 150k
R5 N005 0 1k
R6 N001 N005 47k
C4 N004 0 82n
C2 N001 N003 82n
XU1 N005 N004 N001 opamp Aol=100K GBW=10Meg
;tran 0.05
.lib UniversalOpamps2.sub
.ac dec 1000 10 10000
.lib opamp.sub
.backanno
.end
